US07799825B2
Step 1: 1-(2-Bromo-1,3-thiazol-5-yl)-2,2,2-trifluoroethanol (I1)
A solution (0.52 M) of 2-bromo-5-formylthiazole (1.0 eq.) and CsF (0.2 eq.) in DME was treated with CF3SiMe3 (2.0 eq.) and then stirred for 2 h at RT. The reaction mixture was quenched by adding water and stirred for 15 min. Then, it was diluted with EtOAc and the organic phase was separated. The aqueous phase was extracted twice with EtOAc. The combined organic phase was dried (Na2SO4) and solvents were removed under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 5-25% EtOAc/petroleum ether to afford the title compound as a yellow solid. 1H NMR (300 MHz, CDCl3, 300K) δ 4.04 (1H, d, J=5.9 Hz), 5.32 (1H, dq, J=5.9 Hz, J=5.9 Hz), 7.59 (1H, s). MS (ES+) C5H3BrF3NOS requires: 261/263, found: 262/264 (M+H)+.

reactant | 2-bromo-5-formylthiazole | 0.52 M, 1.0 eq. | BrC=1SC(=CN1)C=O | C4H2BrNOS
reactant | CsF | 0.2 eq. | [F-].[Cs+]
reactant | CF3SiMe3 | 2.0 eq. | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | DME | COCCOC | C4H10O2
product | 1-(2-Bromo-1,3-thiazol-5-yl)-2,2,2-trifluoroethanol | BrC=1SC(=CN1)C(C(F)(F)F)O | C5H3BrF3NOS
